US07923226B2
For microbial oxidation of D-xylose or L-arabinose, fermentation medium (1 L) contains K2HPO4 (2 g), KH2PO4 (1 g), (NH4)2SO4 (5 g) and yeast extract (5 g). Solutions of D-xylose (100 g) or L-arabinose (100 g) and MgSO4 (0.24 g) are autoclaved separately and added immediately prior to initiation of the fermentation. Inoculants are started by introduction of a Pseudomonas fragi single colony picked from a nutrient agar plate into 5 mL of fermentation medium. Cultures are grown at 30° C. with agitation at 250 rpm until they are turbid (˜24 h) and subsequently transferred to 100 mL of fermentation medium. Cultures are grown at 30° C. and 250 rpm for an additional 12 h. The inoculant (OD600=1.0-3.0) is then transferred into the fermentation vessel and the batch fermentation is initiated (t=0 h). The fermentation control settings are: 30° C., stirring speed at 650 rpm, and airflow at 0.5 L/L/min. The culture medium is maintained at pH 6.4 by addition of 2 N H2SO4 and a base solution, which is 30% CaCO3 for oxidation of D-xylose or concentrated NH4OH for oxidation of L-arabinose. A standard curve is determined for each metabolite using solutions of authentic, chemically synthesized samples. (Moore, S.; Link, K. P. J. Biol. Chem. 1940, 133, 293.) Compounds are quantified by 1H NMR using the following resonances: D-xylonic acid (δ4.08, d, 1H); L-arabinonic acid (δ4.24, d, 1H); and L-arabino-1,4-lactone (δ4.64, d, 1H). A modified procedure by Buchert is employed for the purification of D-xylonate. Following treatment with activated carbon and concentration (1-1.1 L to 250 mL) of D-xylonate containing fermentation broth, EtOH (3:1, v/v) is added. After 12 h at 4° C., the precipitated calcium xylonate is filtered and dried under vacuum (95% recovery based on D-xylonate in the crude fermentation broth). Potassium D-xylonate is obtained by passing an aqueous solution of calcium xylonate through a Dowex 50 (K+ form) column (Applied Membranes, Vista, Calif., USA).

reactant | D-xylose | O=C[C@H](O)[C@@H](O)[C@H](O)CO | C5H10O5
reactant | L-arabinose | O=C[C@H](O)[C@@H](O)[C@@H](O)CO | C5H10O5
reactant | K2HPO4 | 2 g | OP(=O)([O-])[O-].[K+].[K+]
reactant | KH2PO4 | 1 g | OP(=O)(O)[O-].[K+]
product | Potassium D-xylonate | O=C([C@H](O)[C@@H](O)[C@H](O)CO)[O-].[K+] | InChI=1S/C5H10O6.K/c6-1-2(7)3(8)4(9)5(10)11;/h2-4,6-9H,1H2,(H,10,11);/q;+1/p-1/t2-,3+,4-;/m1./s1
